US06054615
Synthesis of N-(4,4,5,5,6,6,7,7,7-nonafluoroheptyl -4,4,5,5,6,6,7,7,7-nonafluoroheptanamide
A mixture of methyl 4,4,5,5,6,6,7,7,7-nonafluoroheptanoate (18 g 59 mmol) and 4,4,5,5,6,6,7,7,7-nonafluoroheptylamine (18.5 g, 66.8 mmol) was heated to slowly distill MeOH out through a 15 cm long column. Colorless liquid (10.5 g) was obtained by atmospheric and then full vacuum distillation. After being cooled to RT, the residue in the reaction flask was solidified to a yellow solid (26.0 g). NMR and GC-MS analysis indicated that it was the product, N-(4,4,5,5,6,6,7,7,7-nonafluoroheptyl)-4,4,5,5,6,6,7,7,7-nonafluoroheptanamide, 80% yield. 19F NMR (CDCl3) -81.6 (t, J=10Hz, 6F), -115.0 (m, 2F), -115.4 (m, 2F), -125.0 (m, 4F), -126.6 (m, 4F) ppm. 1H NMR (CDCl3) 1.85 (m, 2H), 2.12 (m, 2H), 2.42-2.61 (m, 4H), 3.38 (q, J=7 Hz, 2H), 5.70 (br s, 1H) ppm. 13C NMR (CDCl3) 21.0 (s), 26.9 (t, J=23 Hz), 27.3 (s), 28.5 (t, J=23 Hz), 39.0 (s), 170.0 (s), 115-122 (m) ppm. MS (m/e) 532 (M+ -F, 37.5%), 482 (M+ -CF3, 0.3%), 382 (M+ -C3F7, 20.5%), 332 (M+ -C3F7, 58.7%), 275 (88.1%), 169 (1.8%), 119 (26.7%), 69 (100%).

reactant | methyl 4,4,5,5,6,6,7,7,7-nonafluoroheptanoate | 59 mmol, 18 g | FC(CCC(=O)OC)(C(C(C(F)(F)F)(F)F)(F)F)F | C8H7F9O2
reactant | 4,4,5,5,6,6,7,7,7-nonafluoroheptylamine | 66.8 mmol, 18.5 g | FC(CCCN)(C(C(C(F)(F)F)(F)F)(F)F)F | C7H8F9N
reactant | MeOH | CO | CH4O
product | 4,4,5,5,6,6,7,7,7-nonafluoroheptyl -4,4,5,5,6,6,7,7,7-nonafluoroheptanamide | 10.5 g, 80% yield | FC(CCCC(C(=O)N)CC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(C(C(C(F)(F)F)(F)F)(F)F)F | C14H11F18NO
